US06043242
11. 6-Amino-2-{3-methyl-4-[3-(3-nitroimidazo[1,2-b]-pyridazin-6-ylsulfanyl)propyl-sulfanyl}pyridin-2-yl-methylsulfanyl)3H-pyrimidin-4-one
A suspension of 0.7 g (1.7 mmol) of 6-[3-(2-chloromethyl-3-methylpyridin-4-ylsulfanyl)propylsulfanyl]-3-nitroimidazo[1,2-b]pyridazine, 0.275 g (1.7 mmol) of 6-amino-2-mercapto-3H-pyrimidin-4-one monohydrate and 0.18 g (1.7 mmol) of sodium carbonate in 20 ml of isopropanol is heated under reflux for 2.5 h. The suspension is then added to 250 ml of water and stirred at room temperature for 30 min. The precipitate is filtered off, washed with water, dried in a high vacuum and suspended in hot methanol. After filtering and drying again, 0.83 g (94%) of the title compound is isolated as a pale beige solid. M.p.: 244-246° C.

reactant | 6-[3-(2-chloromethyl-3-methylpyridin-4-ylsulfanyl)propylsulfanyl]-3-nitroimidazo[1,2-b]pyridazine | 1.7 mmol, 0.7 g | ClCC1=NC=CC(=C1C)SCCCSC=1C=CC=2N(N1)C(=CN2)[N+](=O)[O-] | C16H16ClN5O2S2
reactant | 6-amino-2-mercapto-3H-pyrimidin-4-one monohydrate | 1.7 mmol, 0.275 g | O.NC1=CC(NC(=N1)S)=O
reactant | sodium carbonate | 1.7 mmol, 0.18 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 250 ml | O | H2O
solvent | isopropanol | 20 ml | C(C)(C)O | C3H8O
product | 6-Amino-2-{3-methyl-4-[3-(3-nitroimidazo[1,2-b]-pyridazin-6-ylsulfanyl)propyl-sulfanyl}pyridin-2-yl-methylsulfanyl)3H-pyrimidin-4-one | 0.83 g, 94% | NC1=CC(NC(=N1)S(C)C1=NC=CC(=C1C)SCCCSC=1C=CC=2N(N1)C(=CN2)[N+](=O)[O-])=O | C20H22N8O3S3
